US07592457B2
6,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 4,5-dichloro-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester (1.00 g, 2.84 mmol) and LiHMDS (8.52 mmol, 1M solution in THF). After normal workup, the pure objective compound (0.36 g, 40%; yellow solid) was obtained by a flash column chromatography (Hex:EtOAc=4:1): 1H NMR (200 MHz, CDCl3) δ 1.83 (s, 3H, CH3), 7.02 (s, 1H, ArH), 7.23-7.33 (m, 5H, ArH), 7.97 (s, 1H, ArH), 8.41 (br s, 1H, NH); m.p. 213-214° C.; MS(EI) m/e 319 [M+], 285, 132, 104 ; HRMS m/e cacld. for C16H11NO2Cl 319.0167, found 319.0168.

reactant | 4,5-dichloro-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester | 2.84 mmol, 1.00 g | COC(C1=C(C=C(C(=C1)Cl)Cl)NC(C(C)C1=CC=CC=C1)=O)=O | C17H15Cl2NO3
reactant | LiHMDS | 8.52 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione | ClC=1C=C2C(C(C(NC2=CC1Cl)=O)(C1=CC=CC=C1)C)=O | C16H11Cl2NO2
